US06555584B1
N-[2-[3-(4-Trifluoromethylbenzyloxy)benzamido]benzenesulfonyl]decanamide
In a stream of nitrogen and at 0° C., 0.24 ml (1.10 mmol) of decanoyl chloride was added to an anhydrous tetrahydrofuran (10 ml) solution containing 451 mg (1.00 mmol) of 3-(4-trifluoromethylbenzyloxy)-N-(2-sulfamoylphenyl)benzamide produced in Reference Example 8 and 249 mg (2.00 mmol) of 4-dimethylaminopyridine, the mixture was stirred at room temperature for 1 hour and then the solvent was evaporated under a reduced pressure. The resulting residue was dissolved in ethyl acetate, washed with water, a potassium hydrgensulfate aqueous solution and saturated brine in that order and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography to obtain 512 mg (yield: 84.6%) of the title compound.

reactant | decanoyl chloride | 1.10 mmol, 0.24 ml | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | 3-(4-trifluoromethylbenzyloxy)-N-(2-sulfamoylphenyl)benzamide | 1.00 mmol, 451 mg | FC(C1=CC=C(COC=2C=C(C(=O)NC3=C(C=CC=C3)S(N)(=O)=O)C=CC2)C=C1)(F)F | C21H17F3N2O4S
catalyst | 4-dimethylaminopyridine | 2.00 mmol, 249 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[2-[3-(4-Trifluoromethylbenzyloxy)benzamido]benzenesulfonyl]decanamide | 512 mg, yield: 84.6% | FC(C1=CC=C(COC=2C=C(C(=O)NC3=C(C=CC=C3)S(=O)(=O)NC(CCCCCCCCC)=O)C=CC2)C=C1)(F)F | C31H35F3N2O5S
